US07435823B2
5-Aminonaphthalen-2-ol (356 mg, 2.24 mmol) was dissolved in DMF (2.5 mL) then cooled to 0° C. Sodium hydride (94 mg) was added slowly and the stirring was continued for 15 min at 0° C. 4-Iodo-1H-pyrazolo[3,4-b]pyridine (274 mg, 1.12 mmol) was then added slowly and the reaction was heated at 100° C. for 16 h, followed by 4.5 h at 120° C. The mixture was partitioned between water and EtOAc then washed with water, 1N aqueous NaOH, and brine. The organic layer was dried over sodium sulfate and concentrated in vacuo to give 6-(1H-pyrazolo[3,4-b]pyridin-4-yloxy)naphthalen-1-amine as a brown solid. MS (ESI, pos. ion) m/z: 277.1 (M+1).

reactant | 5-Aminonaphthalen-2-ol | 2.24 mmol, 356 mg | NC1=C2C=CC(=CC2=CC=C1)O | C10H9NO
reactant | Sodium hydride | 94 mg | [H-].[Na+]
reactant | 4-Iodo-1H-pyrazolo[3,4-b]pyridine | 1.12 mmol, 274 mg | IC1=C2C(=NC=C1)NN=C2 | C6H4IN3
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 6-(1H-pyrazolo[3,4-b]pyridin-4-yloxy)naphthalen-1-amine | N1N=CC=2C1=NC=CC2OC=2C=C1C=CC=C(C1=CC2)N | C16H12N4O
